US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-N,N,6-trimethylquinolin-4-amine
The title compound was prepared in analogy to Example 16-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and dimethylamine. MS obsd. (ESI+) [(M+H)+] 382, 1H NMR (400 MHz, CD3OD) δ ppm 8.07 (d, J=7.6 Hz, 1 H), 7.85-7.83 (m, 2 H), 7.73-7.70 (m, 2 H), 7.58-7.55 (m, 2 H), 6.14 (s, 1 H), 5.30 (s, 2 H), 4.51 (s, 2 H), 3.72-3.70 (m, 2 H), 3.29 (s, 6 H), 2.45 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | dimethylamine | CNC | C2H7N
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-N,N,6-trimethylquinolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)N(C)C)C)=O | C21H23N3O2S
